US07319104B2
4-(2-{(5-Ethylpyrimidin-2-yl)[3-(trifluoromethoxy)benzyl]amino}ethyl)-2-(trifluoromethyl)phenol
Similarly prepared from 5-ethyl-N-{2-[4-methoxy-3-(trifluoromethyl)phenyl]ethyl}pyrimidin-2-amine and 3-trifluoromethoxy benzyl bromide.

reactant | 5-ethyl-N-{2-[4-methoxy-3-(trifluoromethyl)phenyl]ethyl}pyrimidin-2-amine | C(C)C=1C=NC(=NC1)NCCC1=CC(=C(C=C1)OC)C(F)(F)F | C16H18F3N3O
reactant | 3-trifluoromethoxy benzyl bromide | FC(OC=1C=C(CBr)C=CC1)(F)F | C8H6BrF3O
product | 4-(2-{(5-Ethylpyrimidin-2-yl)[3-(trifluoromethoxy)benzyl]amino}ethyl)-2-(trifluoromethyl)phenol | C(C)C=1C=NC(=NC1)N(CCC1=CC(=C(C=C1)O)C(F)(F)F)CC1=CC(=CC=C1)OC(F)(F)F | C23H21F6N3O2
